US06008230
A mixture of 8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonylquinoline (300 mg), 1N sodium hydroxide solution (1.95 ml) in tetrahydrofuran (10 ml) was stirred for 6 hours at 50° C. The mixture was concentrated in vacuo, and water was added to the residue. The solution was washed with diethyl ether, and the aqueous layer was adjusted to pH 3 with 1N hydrochloric acid. The resulting precipitate was collected by filtration and washed with water to give 3-carboxy-8-(2,6-dichlorobenzoylamino)quinoline (251.1 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonylquinoline | 300 mg | ClC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)C(=O)OCC)C(=CC=C1)Cl | C19H14Cl2N2O3
reactant | sodium hydroxide | 1N, 1.95 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-carboxy-8-(2,6-dichlorobenzoylamino)quinoline | 251.1 mg | C(=O)(O)C=1C=NC2=C(C=CC=C2C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C17H10Cl2N2O3
